US04127729
To a solution of N-[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-S-(N-ethylcarbamoyl)-L-cysteine (1.9 g.) in methanol (10 ml.), sodium methoxide (0.84 g.) is added. After thirty minutes, the solution is diluted with 0.1 N hydrochloric acid and extracted with ethyl acetate. The organic layer is dried and concentrated to dryness in vacuo to yield N-[3-mercapto-2-(methoxycarbonylmethyl)propanoyl]-L-cysteine.

reactant | N-[3-(acetylthio)-2-(methoxycarbonylmethyl)propanoyl]-S-(N-ethylcarbamoyl)-L-cysteine | 1.9 g | C(C)(=O)SCC(C(=O)N[C@@H](CSC(NCC)=O)C(=O)O)CC(=O)OC | C14H22N2O7S2
reactant | sodium methoxide | 0.84 g | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 0.1 N | Cl | ClH
product | N-[3-mercapto-2-(methoxycarbonylmethyl)propanoyl]-L-cysteine | SCC(C(=O)N[C@@H](CS)C(=O)O)CC(=O)OC | C9H15NO5S2
